US05079023
1,2,3,4,5,6-hexa[(1'-Ethoxy)Ethoxy]Hexane
Into a 250 ml. flask, equi ped with static nitrogen head and magnetic stirrer, was charged 18.6 g. of mannitol, 100 ml. of N-methyl pyrrolidinone and 64.8 g. of ethyl vinyl ether. There was then added 10 drops of concentrated HCl and the mixture stirred at between 22° and 28° for 4.5 hours and allowed to stand overnight. The next day an infrared spectrum of an appropriately worked up sample showed the virtual absence of hydroxyl absorption and strong ether C--O--C bands. The reaction mixture was poured, with stirring, into 750 ml. of water containing excess NaOH and extracted twice with 150 ml. portions of hexane. Each extract was washed consecutively with two 750 ml. portions of water. The compbined oganic phases were dried over solid sodium carbonate-sodium sulfate and vacuum evaporated at about 10 mm. Hg to give 59 g. of crude oil. Distillation was performed on a short path micro still under the following conditions:

reactant | mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
catalyst | HCl | 10 drops | Cl | ClH
solvent | N-methyl pyrrolidinone | CN1CCCC1=O | C5H9NO
product | 1,2,3,4,5,6-hexa[(1'-Ethoxy)Ethoxy]Hexane | C(C)OC(C)OCC(C(C(C(COC(C)OCC)OC(C)OCC)OC(C)OCC)OC(C)OCC)OC(C)OCC | C30H62O12
